US04678781
The starting material was prepared by reaction of 4-chloropyridine with 4-carboxybenzyl bromide in acetone to give 4-chloro-1-(4-carboxybenzyl)pyridinium bromide. n.m.r. in d6DMSO: 5.9(s, 2H); 7.55(d, 2H); 7.9(d, 2H); 8.35(d, 2H); 9.2(d, 2H).

reactant | 4-chloropyridine | ClC1=CC=NC=C1 | C5H4ClN
reactant | 4-carboxybenzyl bromide | C(=O)(O)C1=CC=C(CBr)C=C1 | C8H7BrO2
solvent | acetone | CC(=O)C | C3H6O
product | 4-chloro-1-(4-carboxybenzyl)pyridinium bromide | [Br-].ClC1=CC=[N+](C=C1)CC1=CC=C(C=C1)C(=O)O | InChI=1S/C13H10ClNO2.BrH/c14-12-5-7-15(8-6-12)9-10-1-3-11(4-2-10)13(16)17;/h1-8H,9H2;1H
